US05106842
Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(2-benzyloxy-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate (Ic5)
Diphenylmethyl 7-amino-3-(2-benzyloxy-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate (544 mg, 0.984 mmol) was acylated with 1-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetyl]-4-methyltetrazole-5-thione (295 mg, 0.984 mmol) in tetrahydrofuran (3 mL), as described in Example 13, to afford the title compound (290 mg, 40% yield) as a yellow solid.

reactant | Diphenylmethyl 7-amino-3-(2-benzyloxy-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate | 0.984 mmol, 544 mg | NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OCC2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C31H24N2O6S
reactant | 1-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetyl]-4-methyltetrazole-5-thione | 0.984 mmol, 295 mg | NC=1SC=C(N1)/C(/C(=O)N1N=NN(C1=S)C)=N/OC | C8H9N7O2S2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(2-benzyloxy-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate | 290 mg, 40% yield | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OCC2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C37H29N5O8S2
